US07317033B2
c) (2,4-Dichloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine-hydrochloride
To (4-chloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine (125 mg) in acetic acid (8 ml) a solution of N-chlorosuccinimide (59 mg) in acetic acid (2 ml) was added. Following the analogous description in example 54c) the desired product (58 mg) was obtained.

reactant | (4-chloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine | 125 mg | ClC=1C(=CSC1)NC1=NC2=C(N1)C=C(C(=C2)F)F | C11H6ClF2N3S
reactant | N-chlorosuccinimide | 59 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | (2,4-Dichloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine-hydrochloride | 58 mg | Cl.ClC=1SC=C(C1NC1=NC2=C(N1)C=C(C(=C2)F)F)Cl | InChI=1S/C11H5Cl2F2N3S.ClH/c12-4-3-19-10(13)9(4)18-11-16-7-1-5(14)6(15)2-8(7)17-11;/h1-3H,(H2,16,17,18);1H
